US09334263B2
Step 3: Synthesis of (S)-tert-butyl 2-((4-(4-(4-(5-(2-fluorophenoxyl)pyrimidin-2-yl)piperazin-1-yl)-1,3,5-triazin-2-ylamino)-1H-pyrazol-1-yl)methyl)morpholine-4-carboxylate
A mixture of 5-(2-fluorophenoxy)-2-(piperazin-1-yl)pyrimidine HCl salt (27 mg, 0.1 mmol), (S)-tert-butyl 2-((4-(4-chloro-1,3,5-triazin-2-ylamino)-1H-pyrazol-1-yl)methyl)-morpholine-4-carboxylate (40 mg, 0.1 mmol) and diisopropylethylamine (25 mg, 2.0 mmol) in dioxane (2 mL) was stirred at room temperature for 2 hours. The reaction mixture was directly evaporated and used in the next step.

reactant | 5-(2-fluorophenoxy)-2-(piperazin-1-yl)pyrimidine HCl salt | 0.1 mmol, 27 mg | Cl.FC1=C(OC=2C=NC(=NC2)N2CCNCC2)C=CC=C1
reactant | (S)-tert-butyl 2-((4-(4-chloro-1,3,5-triazin-2-ylamino)-1H-pyrazol-1-yl)methyl)-morpholine-4-carboxylate | 0.1 mmol, 40 mg | ClC1=NC(=NC=N1)NC=1C=NN(C1)C[C@@H]1CN(CCO1)C(=O)OC(C)(C)C | C16H22ClN7O3
reactant | diisopropylethylamine | 2.0 mmol, 25 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | (S)-tert-butyl 2-((4-(4-(4-(5-(2-fluorophenoxyl)pyrimidin-2-yl)piperazin-1-yl)-1,3,5-triazin-2-ylamino)-1H-pyrazol-1-yl)methyl)morpholine-4-carboxylate | FC1=C(OC=2C=NC(=NC2)N2CCN(CC2)C2=NC(=NC=N2)NC=2C=NN(C2)C[C@@H]2CN(CCO2)C(=O)OC(C)(C)C)C=CC=C1 | C30H36FN11O4
